US08466197B2
H2SO4 (0.020 mL, 0.343 mmol) was added to a solution of (R)-2-acetamido-3-((2′,4′-difluoro-3-(benzyloxycarbonyl)biphenyl-4-yloxy)carbonylthio)propanoic acid (54 mg, 0.102 mmol) in MeOH (10 mL). The reaction mixture was stirred at r.t. for 18 h, poured into H2O (30 mL) and extracted with CH2Cl2 (20 mL). The organic layer was dried over Na2SO4 (anhydrous), filtered and concentrated. The crude residue was purified by flash chromatography on SiO2 (3% MeOH/CH2Cl2) to furnish (R)-benzyl 4-((2-acetamido-3-methoxy-3-oxopropylthio)carbonyloxy)-2′,4′-difluorobiphenyl-3-carboxylate (yellow-coloured solid, yield: 82%).

reactant | H2SO4 | 0.343 mmol, 0.020 mL | OS(=O)(=O)O | H2O4S
reactant | (R)-2-acetamido-3-((2′,4′-difluoro-3-(benzyloxycarbonyl)biphenyl-4-yloxy)carbonylthio)propanoic acid | 0.102 mmol, 54 mg | C(C)(=O)N[C@H](C(=O)O)CSC(=O)OC1=C(C=C(C=C1)C1=C(C=C(C=C1)F)F)C(=O)OCC1=CC=CC=C1 | C26H21F2NO7S
reactant | H2O | 30 mL | O | H2O
reactant | MeOH | 10 mL | CO | CH4O
product | (R)-benzyl 4-((2-acetamido-3-methoxy-3-oxopropylthio)carbonyloxy)-2′,4′-difluorobiphenyl-3-carboxylate | yield: 82% | C(C)(=O)N[C@@H](CSC(=O)OC1=C(C=C(C=C1)C1=C(C=C(C=C1)F)F)C(=O)OCC1=CC=CC=C1)C(=O)OC | C27H23F2NO7S
